US07259175B2
3-{4-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxymethyl]-2-methyl-phenyl}-propionic acid methyl ester
To a mixture of [4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol (0.056 g, 0.18 mmol) and 3-(4-Iodomethyl-2-methyl-phenyl)-propionic acid methyl ester (0.070 g, 0.22 mol) in DMF (1 mL) is added sodium hydride (60% dispersion, 0.016 g, 0.67 mmol). After 3.5 h, water is added, and the mixture is extracted with EtOAc. The organics are dried with MgSO4 and concentrated. The crude material is purified by flash chromatography to yield the title compound (55 mg, 60%).

reactant | [4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | 0.18 mmol, 0.056 g | C(C)(C)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
reactant | 3-(4-Iodomethyl-2-methyl-phenyl)-propionic acid methyl ester | 0.22 mol, 0.070 g | COC(CCC1=C(C=C(C=C1)CI)C)=O | C12H15IO2
reactant | sodium hydride | 0.67 mmol, 0.016 g | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-{4-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxymethyl]-2-methyl-phenyl}-propionic acid methyl ester | 55 mg, 60% | COC(CCC1=C(C=C(C=C1)COCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)C)=O | C26H28F3NO3S
